### PR TITLE
[Merged by Bors] - feat: port GroupTheory.Solvable

### PR DESCRIPTION
**Pull request by tb65536**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/Solvable.lean [hunk 1]
```diff
@@ -0,0 +1,241 @@
...
+#align derived_series_succ derivedSeries_succ
+
+-- porting note: had to provide inductive hypothesis explicitly
+theorem derivedSeries_normal (n : ℕ) : (derivedSeries G n).Normal := by
+  induction' n with n ih
+  · exact (⊤ : Subgroup G).normal_of_characteristic
+  · exact @Subgroup.commutator_normal G _ (derivedSeries G n) (derivedSeries G n) ih ih
+#align derived_series_normal derivedSeries_normal
+
+-- porting note: removed simp attribute since `derivedSeries G 1` is not in simp-normal form
```
Comment (urkud) [inline Mathlib/GroupTheory/Solvable.lean:65]: Does `simp` simplify LHS to RHS? If not, then you may want to add `@[simp 1100]` to restore Lean 3 behavior.

File: Mathlib/GroupTheory/Solvable.lean [hunk 2]
```diff
@@ -0,0 +1,241 @@
...
+  obtain ⟨m, hm⟩ := id hG'
+  refine' ⟨⟨n + m, le_bot_iff.mp (map_bot f ▸ hm ▸ _)⟩⟩
+  clear hm
+  induction' m with m hm
+  ·
+    exact
+      f.range_eq_map ▸
+        ((derivedSeries G n).map_eq_bot_iff.mp
+              (le_bot_iff.mp ((map_derivedSeries_le_derivedSeries g n).trans hn.le))).trans
+          hfg
```
Comment (urkud) [inline Mathlib/GroupTheory/Solvable.lean:152]: Optional: reflow,

**Comment by urkud** [comment]
Otherwise LGTM. Thanks! :tada: 
bors d+
